US07985764B2
A 234 mg portion of ethyl 2,3-dimethyl-1H-indole-5-carboxylate was dissolved in 1 ml of toluene, and 0.145 ml of iodobenzene and 10 mg of copper(I) iodide and 480 mg of tripotassium phosphate and 26 ml of trans-1,2-cyclohexanediamine were added at room temperature, followed by stirring at 100° C. for 24 hours. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (hexane-ethyl acetate:hexane=1:4) to obtain 79 mg of ethyl 2,3-dimethyl-1-phenyl-1H-indole-5-carboxylate as a colorless oily material.

reactant | ethyl 2,3-dimethyl-1H-indole-5-carboxylate | CC=1NC2=CC=C(C=C2C1C)C(=O)OCC | C13H15NO2
reactant | iodobenzene | 0.145 ml | IC1=CC=CC=C1 | C6H5I
reactant | tripotassium phosphate | 480 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-cyclohexanediamine | 26 ml | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | ethyl 2,3-dimethyl-1-phenyl-1H-indole-5-carboxylate | 79 mg | CC=1N(C2=CC=C(C=C2C1C)C(=O)OCC)C1=CC=CC=C1 | C19H19NO2
